US07232834B2
2.26 cm3 of an aqueous solution of hydrogen peroxide at 9.8 mol/l and 0.310 g of lithium hydroxide monohydrate are added successively, at a temperature in the region of 20° C., under an argon atmosphere, to 2 g (3.7 mmol) of (3R,4R)-1-tert-butyloxycarbonyl-4-{3-[tert-butyloxycarbonyl-(6-methoxyquinolin-4-yl)amino]-3-oxopropyl}-3-vinylpiperidine in solution in 56 cm3 of tetrahydrofuran and 18 cm3 of water. After stirring for 16 hours, 50 cm3 of a saturated aqueous sodium sulfite solution are added and the tetrahydrofuran is then evaporated off under reduced pressure (2.7 kPa). The aqueous phase is filtered and the residue is washed with 3 times 30 cm3 of water. The filtrates are pooled, acidified to a pH in the region of 3.5 by adding acetic acid and then extracted with 3 times 40 cm3 of dichloromethane. The organic phases are pooled, dried over anhydrous magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (2.7 kPa) to give 0.9 g of (3R,4R)-1-tert-butyloxycarbonyl-4-(2-carboxyethyl)-3-vinylpiperidine in the form of a colorless oil.

reactant | hydrogen peroxide | OO | H2O2
reactant | lithium hydroxide monohydrate | 0.310 g | O.[OH-].[Li+]
reactant | (3R,4R)-1-tert-butyloxycarbonyl-4-{3-[tert-butyloxycarbonyl-(6-methoxyquinolin-4-yl)amino]-3-oxopropyl}-3-vinylpiperidine | 3.7 mmol, 2 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CCC(=O)N(C1=CC=NC2=CC=C(C=C12)OC)C(=O)OC(C)(C)C)C=C | C30H41N3O6
reactant | sodium sulfite | 50 cm3 | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 56 cm3 | O1CCCC1 | C4H8O
solvent | water | 18 cm3 | O | H2O
product | (3R,4R)-1-tert-butyloxycarbonyl-4-(2-carboxyethyl)-3-vinylpiperidine | 0.9 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)CCC(=O)O)C=C | C15H25NO4
